US04430343
A mixture of 2-chlorobenzimidazole (10.00 g) and N-mehylpiperazine (20.00 g) is stirred at 125° C. for 5 hours. A 10% aqueous sodium hydroxide (100 ml) is added to the reaction mixture, and the precipitated crystals are separated by filtration. The filtrate is extracted with chloroform, and the chloroform extract is evaporated to dryness to give the same crystals. The crystals are combined and recrystallized from water-methanol to give 2-(4-methyl-1-piperazinyl)benzimidazole (7.02 g) as colorless needles, m.p. 225°-226° C.

reactant | 2-chlorobenzimidazole | 10.00 g | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | N-mehylpiperazine | 20.00 g | CN1CCNCC1 | C5H12N2
solvent | sodium hydroxide | 100 ml | [OH-].[Na+]
product | 2-(4-methyl-1-piperazinyl)benzimidazole | 7.02 g | CN1CCN(CC1)C=1NC2=C(N1)C=CC=C2 | C12H16N4
